US08106077B2
2-Azido-1,3-dichloro-benzene
To a 0° C. solution of 2,6-dichloroaniline (2.00 g) in ethyl acetate (40 mL) is added concentrated hydrochloric acid (12 mL). The reaction is stirred for 10 min. To this solution is added a solution of sodium nitrite (2.55 g) in water (7.5 mL) over 3 min. Upon completion of the addition, the reaction is stirred for an additional 30 min. A solution of sodium azide (2.41 g) in water (8 mL) is added over 5 min. After 30 min, pH 7 buffer (50 mL) is added and the reaction is transferred to a separatory funnel. The layers are separated and the aqueous layer is extracted with ethyl acetate. The organic layers are combined and washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give the title compound (2.11 g). 1H NMR (400 MHz, CDCl3) δ 7.3-7.27 (d, 2H), 7.07-7.02 (t, 1H)

reactant | 2,6-dichloroaniline | 2.00 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | hydrochloric acid | 12 mL | Cl | ClH
reactant | sodium nitrite | 2.55 g | N(=O)[O-].[Na+]
reactant | sodium azide | 2.41 g | [N-]=[N+]=[N-].[Na+]
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 7.5 mL | O | H2O
solvent | water | 8 mL | O | H2O
product | 2-Azido-1,3-dichloro-benzene | 2.11 g | N(=[N+]=[N-])C1=C(C=CC=C1Cl)Cl | C6H3Cl2N3
